US05708008
5-carboxy-3-(1-methyl-1,2,5,6-tetrahydropyridin-4-yl)-1H-indole
To a solution of 5.8 gm (90 mMol) potassium hydroxide in 50 mL methanol were added 4.83 gm (30 mMol) indole 5-carboxylic acid followed by 7.4 mL (60 mMol) 1-methyl-4-piperidone and the resulting solution was heated at reflux for 18 hours. The reaction mixture was then concentrated under reduced pressure and the resulting oil dissolved in 200 mL water. The solution was gradually neutralized by addition of 18 mL 5N hydrochloric acid. The precipitate which formed was isolated by filtration and washed with water to provide 6.09 gm after drying. This solid was dissolved in 100 mL 0.5N sodium hydroxide, filtered and the filtrate treated with 50 mL 1N hydrochloric acid. The solid which formed was filtered and dried under reduced pressure to provide 5.46 gm (71%) of the title compound.

reactant | potassium hydroxide | 90 mMol, 5.8 gm | [OH-].[K+]
reactant | indole 5-carboxylic acid | 30 mMol, 4.83 gm | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
reactant | 1-methyl-4-piperidone | 60 mMol, 7.4 mL | CN1CCC(CC1)=O | C6H11NO
solvent | methanol | 50 mL | CO | CH4O
product | 5-carboxy-3-(1-methyl-1,2,5,6-tetrahydropyridin-4-yl)-1H-indole | 5.46 gm, 71% | C(=O)(O)C=1C=C2C(=CNC2=CC1)C1=CCN(CC1)C | C15H16N2O2
